US08470841B2
50a N-{3-[4-(6-Fluoropyridin-3-yloxy)phenyl]-1-methylpropyl}acetamide
2-Fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine (900 mg, 4.03 mmol), anhydrous copper acetate (550 mg, 3.03 mmol), 1-butylimidazole (175 mg, 1.41 mmol), N-[3-(4-hydroxyphenyl)-1-methylpropyl]acetamide (418 mg, 2.02 mmol) and pyridine (0.326 ml, 4.03 mmol) were admixed with 25 ml of toluene, and stirred at 100° C. for 15 h, under argon. The reaction mixture was filtered and the filtrate was concentrated and purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 394 mg (32%), M+H+: 303.0.

reactant | 2-Fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine | 4.03 mmol, 900 mg | FC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C11H15BFNO2
reactant | 1-butylimidazole | 1.41 mmol, 175 mg | C(CCC)N1C=NC=C1 | C7H12N2
reactant | N-[3-(4-hydroxyphenyl)-1-methylpropyl]acetamide | 2.02 mmol, 418 mg | OC1=CC=C(C=C1)CCC(C)NC(C)=O | C12H17NO2
reactant | pyridine | 4.03 mmol, 0.326 ml | N1=CC=CC=C1 | C5H5N
catalyst | copper acetate | 3.03 mmol, 550 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | N-{3-[4-(6-Fluoropyridin-3-yloxy)phenyl]-1-methylpropyl}acetamide | FC1=CC=C(C=N1)OC1=CC=C(C=C1)CCC(C)NC(C)=O | C17H19FN2O2
